US08293768B2
Synthesis of 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)-N-(pyridin-3-ylmethyl)thiophene-2-carboxamide
To a 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylic acid (0.08 g, 0.23 mmol), 1-hydroxybenzotriazole (0.05 g, 0.35 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.07 g, 0.35 mmol) in N,N-dimethylformamide (2 mL) was added N,N-diisopropylethylamine (0.12 mL, 0.70 mmol), followed by the addition of 3-(aminomethyl)pyridine (0.02 mL, 0.24 mmol). The resulting reaction mixture was stirred at ambient temperature for 18 h, and then diluted with ethyl acetate (75 mL). The organic layer was washed with saturated aqueous sodium bicarbonate solution (3×35 mL) and water (35 mL), dried over sodium sulfate, filtered and concentrated in vacuo. The residue was triturated with ethyl acetate in hexanes to afford the title compound as a colorless solid in 79% yield (0.08 g): mp 78-80° C.; 1H NMR (300 MHz, CDCl3) δ 8.59 (s, 1H), 8.52 (s, 1H), 7.69 (d, J=7.8 Hz, 1H), 7.32-7.23 (m, 3H), 6.96 (t, J=7.6 Hz, 1H), 6.88 (d, J=7.6 Hz, 2H), 6.15 (t, J=5.7 Hz, 1H), 6.08 (s, 1H), 4.57 (d, J=5.7 Hz, 2H), 4.15 (t, J=4.9 Hz, 2H), 3.80 (br s, 4H), 3.69 (t, J=4.9 Hz, 2H), 2.48 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 163.5, 158.2, 156.0, 149.2, 148.8, 142.5, 141.7, 135.5, 129.6, 123.6, 121.2, 118.9, 114.3, 112.4, 66.9, 43.8, 43.0, 41.2, 16.1; MS (ES+) m/z 437.4 (M+1).

reactant | 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylic acid | 0.23 mmol, 0.08 g | CC1=C(SC(=C1)N1C(N(CC1)CCOC1=CC=CC=C1)=O)C(=O)O | C17H18N2O4S
reactant | 1-hydroxybenzotriazole | 0.35 mmol, 0.05 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.35 mmol, 0.07 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N,N-diisopropylethylamine | 0.70 mmol, 0.12 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-(aminomethyl)pyridine | 0.24 mmol, 0.02 mL | NCC=1C=NC=CC1 | C6H8N2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
product | 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)-N-(pyridin-3-ylmethyl)thiophene-2-carboxamide | 79% yield | CC1=C(SC(=C1)N1C(N(CC1)CCOC1=CC=CC=C1)=O)C(=O)NCC=1C=NC=CC1 | C23H24N4O3S
